* Wurlitzer 200A Preamp — Harmonic Distortion vs Level Testbench
* ==============================================================
* Sweeps input level to measure THD, H2, H3 at each level.
* Uses 440 Hz tone. Multiple runs at different amplitudes.
*
* Expected: H2 > H3 (asymmetric clipping), THD increases
* with signal level, primarily from Stage 1 saturation.
*
* Source: Vs → R-1 (22K) → preamp input, with LDR at 12K.

.title Preamp THD vs Input Level

.include ../models/transistors.lib
.include ../models/diodes.lib
.include ../subcircuits/preamp.cir

* Supply
Vcc  vcc 0  DC 14.5

* Instantiate preamp
Xpre  in_sig out vcc 0 trem  wurli_preamp

* Source: parametric level through R-1
.param amp = 1M
Vin  src 0  DC 0 SIN(0 {amp} 440 0 0)
R1   src in_sig  22K

* LDR: nominal 12K
Rldr trem 0  12K

* Load resistor
Rload out 0  100K

* Transient: 100ms to capture ~44 cycles at 440 Hz
* Start recording at 20ms for bias settling
.tran 1U 100M 20M 1U

.step param amp list 1M 2M 5M 10M 20M 50M 100M 200M

.print TRAN V(out)

.end
